US07355055B2
Synthesis of Structure # 13; 2,5-bis-(3-methylphenylcarbonyloxy)-3-undecyl-1,4-benzoquinone
To a stirred solution of 2,5-dihydroxy-3-undecyl-1,4-benzoquinone (0.5 g, 1.7 mmole) in dichloromethane (20 mL) was added pyridine (0.55 mL, 6.8 mmole). To this, was added 3-toluoyl chloride (0.654 gm, 4.25 mmole) at 15-20° C. and stirred, allowed to attain 30° C. and stirring was continued for 3 h (TLC). The organic layer was extracted with dichloromethane, washed (water, brine), dried (Na2SO4), concentrated to crude which was purified by SiO2 column chromatography (10-20% EtOAc in hexane) to pure mass (0.64 g, 71%).

reactant | 2,5-dihydroxy-3-undecyl-1,4-benzoquinone | 1.7 mmole, 0.5 g | OC=1C(C=C(C(C1CCCCCCCCCCC)=O)O)=O | C17H26O4
reactant | pyridine | 6.8 mmole, 0.55 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-toluoyl chloride | 4.25 mmole, 0.654 gm | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2,5-bis-(3-methylphenylcarbonyloxy)-3-undecyl-1,4-benzoquinone | CC=1C=C(C=CC1)C(=O)OC=1C(C=C(C(C1CCCCCCCCCCC)=O)OC(=O)C1=CC(=CC=C1)C)=O | C33H38O6
